US07592373B2
3-(3-bromobiphenyl-4-yl)propynoic acid-{3-chloro-4-[2-(4-hydroxy-4-trifluoromethylpiperidin-1-yl)ethyl]phenyl}amide
Prepared analogously to Example 2.3.f. from (3-bromobiphenyl-4-yl)propynoic acid and 1-[2-(4-amino-2-chlorophenyl)ethyl]4-trifluoromethylpiperidin-4-ol. Yield: 36 mg (10.5% of theory); C29H25BrClF3N2O2 (M=605.87); calc.: molecular ion peak (M+H)+: 605/07/09; found: molecular ion peak (M+H)+: 605/07/09.

reactant | (3-bromobiphenyl-4-yl)propynoic acid | BrC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9BrO2
reactant | 1-[2-(4-amino-2-chlorophenyl)ethyl]4-trifluoromethylpiperidin-4-ol | NC1=CC(=C(C=C1)CCN1CCC(CC1)(O)C(F)(F)F)Cl | C14H18ClF3N2O
product | 3-(3-bromobiphenyl-4-yl)propynoic acid-{3-chloro-4-[2-(4-hydroxy-4-trifluoromethylpiperidin-1-yl)ethyl]phenyl}amide | ClC=1C=C(C=CC1CCN1CCC(CC1)(C(F)(F)F)O)NC(C#CC1=C(C=C(C=C1)C1=CC=CC=C1)Br)=O | C29H25BrClF3N2O2
